US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic acid 4-fluoro-benzyl Ester
4-Fluorobenzyl 4-[4-(2-aminoethyl)anilino]-1-piperidinecarboxylate formate (0.33 g, 0.792 ) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.32 g, 0.792 mmol) according to the method described in Procedure G to give the title compound (0.18 g, 0.232 mmol).

reactant | 4-Fluorobenzyl 4-[4-(2-aminoethyl)anilino]-1-piperidinecarboxylate formate | 0.33 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)OCC2=CC=C(C=C2)F)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.792 mmol, 0.32 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic acid 4-fluoro-benzyl Ester | 0.232 mmol, 0.18 g | FC1=CC=C(COC(=O)N2CCC(CC2)NC2=CC=C(C=C2)CCNC[C@@H](COC2=CC=C(C=C2)O)O)C=C1 | C30H36FN3O5
